US08053438B2
1-praline methyl ester hydrochloride (5.8 g, 35 mmol) was suspended in DCM (40 mL), to it was added triethylamine (12 ml, 84 mmol). After stirring for 10 min, the precipitate formed was filtered off and washed with DCM (5 mL). To the filtrate was added benzyl bromide (5.0 ml, 42 mmol). The reaction mixture was stirred at RT for 16 h. The reaction mixture was diluted with EtOAc and washed with water and brine, dried (Na2SO4) and concentrated. The crude product was chromatographed through a Redi-Sep® pre-packed silica gel column (120 g), eluting with a gradient of 0% to 25% EtOAc in hexane, to provide (S)-methyl 1-benzylpyrrolidine-2-carboxylate as colorless oil. MS (ESI, pos. ion) m/z: 220.0 (M+1).

reactant | triethylamine | 84 mmol, 12 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl bromide | 42 mmol, 5.0 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | (S)-methyl 1-benzylpyrrolidine-2-carboxylate | C(C1=CC=CC=C1)N1[C@@H](CCC1)C(=O)OC | C13H17NO2
